Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with PMHX stage ___ cholangiocarcinoma on Cycle 4 Day 13 of 
Gemcitabine/Cisplatin with recent admissions for e.coli 
bacteremia (completed Abx ___ Diff (completed Abx ___ 
presents for fevers to 103.4. His wife called overnight noting 
he has a fever to 103.4 in the setting of having fiducials 
placed today for Cyberknife. Of note, Cycle 4 Day 8 of patient's 
Chemo was held secondary to thrombocytopenia and fiducial 
replacement. Pt recently finished a course of vancomycin for 
c.diff. Pt feels chills. Pt p/w fever in the setting of recent 
fiducials placement and immunocompormise.
 
Past Medical History:
PAST MEDICAL HISTORY: 
GERD
Rosacea
BPH
Intermittent migraines conrolled on atenolol
Arthritis

PAST ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the ___, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3 Cis/Gem
 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He has no other 
family history of malignancy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T:98 BP:133/67 P: 100 (sinus): R: 18 O2:100RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
Physical Examination:
VSS, reviewed in bedside chart
GEN: Alert, oriented to name, place and situation. no acute 
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric, 
MMM.
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing. L 
base rales
ABD: Soft, mild RLQ tenderness, non-distended, palpable liver 
edge
EXTR: trace lower leg edema
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major 
muscle groups
PSYCH: Appropriate and calm.
 
Pertinent Results:
==================================
              Labs
==================================
___ 06:35AM BLOOD WBC-3.9* RBC-3.06* Hgb-9.4* Hct-30.0* 
MCV-98 MCH-30.9 MCHC-31.5 RDW-16.4* Plt Ct-97*
___ 06:30AM BLOOD WBC-3.1* RBC-3.14* Hgb-9.5* Hct-30.9* 
MCV-99* MCH-30.2 MCHC-30.7* RDW-16.2* Plt ___
___ 06:45AM BLOOD WBC-3.5* RBC-3.25* Hgb-9.8* Hct-32.0* 
MCV-99* MCH-30.3 MCHC-30.7* RDW-16.2* Plt ___
___ 08:30AM BLOOD Plt Ct-67*
___ 06:45AM BLOOD Plt Ct-77*
___ 06:30AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-151* UreaN-12 Creat-0.8 Na-136 
K-4.0 Cl-101 HCO3-23 AnGap-16
___ 06:45AM BLOOD Glucose-144* UreaN-9 Creat-0.6 Na-136 
K-2.8* Cl-106 HCO3-22 AnGap-11
___ 06:35AM BLOOD Glucose-117* UreaN-9 Creat-0.6 Na-140 
K-3.4 Cl-108 HCO3-24 AnGap-11
___ 06:30AM BLOOD Glucose-122* UreaN-6 Creat-0.6 Na-140 
K-3.7 Cl-107 HCO3-25 AnGap-12
___ 05:40AM BLOOD ALT-30 AST-49* AlkPhos-88 TotBili-0.8
___ 06:35AM BLOOD ALT-22 AST-23 AlkPhos-75 TotBili-0.7
___ 05:40AM BLOOD Albumin-4.1 Calcium-8.8 Phos-2.7 Mg-1.5*
___ 06:45AM BLOOD Calcium-8.2* Phos-1.6* Mg-1.6
___ 06:35AM BLOOD Phos-2.0* Mg-1.9
___ 06:30AM BLOOD Phos-2.4* Mg-2.0
___ 05:40AM BLOOD Lactate-3.0*
___ 09:00AM BLOOD Lactate-2.3*

___ 8:50 am BLOOD CULTURE
Blood Culture, Routine (Preliminary):
ESCHERICHIA COLI. FINAL SENSITIVITIES.
SENSITIVITIES: MIC expressed in MCG/ML
_________________________________________________________
ESCHERICHIA COLI
|
AMPICILLIN------------ =>32 R
AMPICILLIN/SULBACTAM-- =>32 R
CEFAZOLIN------------- =>64 R
CEFTAZIDIME----------- =>64 R
CEFTRIAXONE----------- =>64 R
CIPROFLOXACIN--------- =>4 R
GENTAMICIN------------ <=1 S
MEROPENEM-------------<=0.25 S
TOBRAMYCIN------------ <=1 S
TRIMETHOPRIM/SULFA---- <=1 S

==================================
            Radiology            
==================================
CXR ___
FINDINGS:  PA and lateral views of the chest.  The lungs are 
well expanded and
clear.  A granuloma is seen in the right lateral lung, unchanged 
to prior
exam.  There is no pleural effusion or pneumothorax.  The 
cardiomediastinal
silhouette is unremarkable.  
 
IMPRESSION:  No acute cardiopulmonary process.  
 
RUQ US ___
FINDINGS:  This exam is very limited, especially with respect to 
the midline
structures due to gaseous distention of the abdomen and stents 
in the biliary
ducts.  The liver is enlarged to 24.8 cm and demonstrates no 
evidence of focal
lesions or textural abnormality.  Doppler assessment of the main 
portal vein
shows patency and hepatopetal flow.  There is no ascites.  There 
is no
evidence of intrahepatic or extrahepatic biliary dilatation.  
Biliary stents
are seen within the central bile ducts.  The gallbladder 
demonstrates the wall
thickening without hydropic changes.  The pancreas is not 
visualized on this
exam.  Limited views of the right kidney are unremarkable.  
 
IMPRESSION:  Limited exam due to gaseous distention of the 
abdomen and stents
in the biliary ducts.
 
1.  No acute findings, but if clinical concern persists for 
cholangitis, CT
could allow for further assessment.  
 
2.  Hepatomegaly.

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with cholangiocarcinoma 
currently on gem/cis (last dose ___ who presented with 
fevers and chills after fiducial placement and recent admission 
for e.coli bacteremia and c.diff; BCx now growing e. coli again

ACTIVE ISSUES
=============

#Sepsis:  Patient was admitted to the FICU for evidence of 
hemodynamic instability with significant tachycardia in the 
setting of presumed hepatobiliary sepsis.  Other sources of 
infection were considered but thought to be less likely given 
negative CXR and UA.    Pt.'s initially was rigoring in the ED.  
He received several liters of IVF and was empirically given a 
dose of zosyn prior to transfer.  Upon arrival, pt's previous 
culture data was reviewed showing evidence of MDR E.Coli.  As 
such, he was empirically started on Vancomycin and Meropenem.  
He stabilized and was transferred to the floor for further 
management. After cultures grew e. coli with a similar 
resistance pattern to previous, vancomycin was discontinued. He 
continued having daily fevers to 101 for the first 2 days and 
then defervesced. He had a PICC line placed and will receive 
antibiotics at home (ertapenem).  

#Recent CDiff Infection:  Pt. also with recent CDiff infection 
with completion of course 3 days prior to presentation.  He was 
noted to have ongoing loose stools and was restarted on PO 
vancomycin. Cdiff returned negative, but given his recent 
history and that he will be on antibiotics for a long course, we 
recommended continuing PO vancomycin until he completes his 
ertapenem. 

CHRONIC ISSUES
===============

# Cholangiocarcinoma: s/p 3.5 cycles of Cis/Gem.  Most recent 
Cycle 4 Day 8 dose held secondary to recent fiducial placement 
and thrombocytopenia.

#Chronic Cough:  Most likely ___ post-nasal drip. On chronic 
loratadine and steroid nasal spray. CXR clear.  

# HTN:  Home atenolol initially held given septic picture, 
restarted during hospital stay

# BPH:  Home terazosin initially held given septic picture, 
restarted during hospital stay

greater than 30 minutes was spent in discharge planning on the 
day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) 1000 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. Loratadine 10 mg PO DAILY 
4. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
5. Multivitamins 1 TAB PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. OLANZapine 2.5-5 mg PO HS 
8. Terazosin 10 mg PO HS 

 
Discharge Medications:
1. ertapenem 1 gram injection q24h Duration: 10 Days 
RX *ertapenem [Invanz] 1 gram 1 g IV q24h Disp #*10 Vial 
Refills:*0
2. Atenolol 50 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Fluticasone Propionate NASAL 2 SPRY NU BID 
5. Loratadine 10 mg PO DAILY 
6. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
7. Multivitamins 1 TAB PO DAILY 
8. OLANZapine 2.5-5 mg PO HS 
9. Pantoprazole 40 mg PO Q24H 
10. Terazosin 10 mg PO HS 
11. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*40 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Sepsis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for fever.  You 
were found to have bacteria in the blood, which we think is 
related to your recent procedure. You were treated with 
intravenous antibiotics, which you will need to continue for 10 
more days at home. Your fevers have resolved. You will start 
radiation next week and visit with Drs. ___ the 
following week. 
 
Followup Instructions:
___